US09351973B2
To a solution of 3-methyl-2-(pyridine-3-yl)-6,7-dihydropyrazolo[1,5-a]pyrimidin-5(4H)-one (50 mg, 0.22 mmol) in DMF (5 mL) was added NaH (13 mg, 0.33 mmol). The resulting mixture was stirred at room temperature for 30 minutes, and then iodomethane (47 mg, 0.33 mmol) was added and stirred at room temperature for 30 minutes. The mixture was quenched with water (20 mL) and extracted with ethyl acetate (10 mL×2). The combined organic layers were dried, filtered, concentrated in vacuo and re-crystallized from MeOH to give 3,4-dimethyl-2-(pyridine-3-yl)-6,7-dihydropyrazolo[1,5-a]pyrimidin-5(4 H)-one: MS (m/z): 243.1 [M+H]+, 1HNMR (400 MHz, CD3OD) δ 8.74 (s, 1H), 8.55 (d, 1 H, J=4.0 Hz), 8.03 (d, 1 H, J=8.0 Hz), 7.54 (dd, 1 H, J=4.8 Hz, J=8.0 Hz), 4.35 (t, 2H, J=6.8 Hz), 3.50 (s, 3 H), 2.95 (t, 2 H, J=6.8 Hz), 2.30 (s, 3H).

reactant | 3-methyl-2-(pyridine-3-yl)-6,7-dihydropyrazolo[1,5-a]pyrimidin-5(4H)-one | 0.22 mmol, 50 mg | CC=1C(=NN2C1NC(CC2)=O)C=2C=NC=CC2 | C12H12N4O
reactant | NaH | 0.33 mmol, 13 mg | [H-].[Na+]
reactant | iodomethane | 0.33 mmol, 47 mg | IC | CH3I
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 3,4-dimethyl-2-(pyridine-3-yl)-6,7-dihydropyrazolo[1,5-a]pyrimidin-5(4 H)-one | CC=1C(=NN2C1N(C(CC2)=O)C)C=2C=NC=CC2 | C13H14N4O
